US07683056B2
2-[3,5-bis(trifluoromethyl)phenyl]-N-{6-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-4-[2-(hydroxymethyl)phenyl]-3-pyridinyl}-N,2-dimethylpropanamide (E49)
2-[3,5-bis(trifluoromethyl)phenyl]-N-{6-[(7S ,9aS)-7-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H) -yl]-4-[2-(hydroxymethyl)phenyl]-3-pyridinyl}-N ,2-dimethylpropanamide (D61, 24.6 mg, 0.0315 mmol) was suspended in dry MeOH (1 mL) before adding c.HCl solution (5 drops). The reaction mixture was then stirred at R.T. for 3 hours. Poured directly onto a 5 g SCX column, washing with MeOH (2×10 mL) before eluting the compound off with NH3 in MeOH (4×10 mL). Solvent evaporated. Residue purified on a 5 g sek pak column eluting with 0-100% EtOAc/Pent followed by 0-10% MeOH/EtOAc. Solvent evaporated to afford the title compound as a colourless gum.

reactant | 2-[3,5-bis(trifluoromethyl)phenyl]-N-{6-[(7S ,9aS)-7-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H) -yl]-4-[2-(hydroxymethyl)phenyl]-3-pyridinyl}-N ,2-dimethylpropanamide | 0.0315 mmol, 24.6 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)CO)N1C[C@H]2COCCN2C[C@H]1CO[Si](C)(C)C(C)(C)C)(C)C)(F)F | C39H50F6N4O4Si
solvent | MeOH | 1 mL | CO | CH4O
catalyst | HCl | 5 drops | Cl | ClH
product | 2-[3,5-bis(trifluoromethyl)phenyl]-N-{6-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-4-[2-(hydroxymethyl)phenyl]-3-pyridinyl}-N,2-dimethylpropanamide | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)CO)N1C[C@H]2COCCN2C[C@H]1CO)(C)C)(F)F | C33H36F6N4O4
